US08648096B2
A stirred solution of 2 M methylamine/THF (30 mL, 60 mmol) and triethylamine (6.1 g, 66 mmol) in methylene chloride (50 mL) was cooled to −20° C. A solution of di-t-butyl dicarbonate (14.4 g, 66 mmol) in methylene chloride (50 mL) was added slowly at −10 to −20° C. After addition, the mixture was stirred at −20° C. for 30 minutes, then warmed to room temperature overnight. The mixture was washed with water (2×40 mL) and brine (40 mL), and dried (MgSO4). Solvent was removed, and the residue was stirred with hexane (15 mL). The mixture was filtered, and the filtrate was concentrated. The residue was purified by chromatography (SiO2, Hexane: EtOAc 8:2) to give methyl-carbamic acid t-butyl ester (6.6 g, 84%) as oil: 1H NMR (CDCl3) δ 4.57 (b. 1H), 2.74 (d, J=4.9 Hz, 3H), 1.44 (s, 9H).

reactant | methylamine THF | 60 mmol, 2 M, 30 mL | CN.C1CCOC1
reactant | triethylamine | 66 mmol, 6.1 g | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 66 mmol, 14.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl-carbamic acid t-butyl ester | 6.6 g, 84% | C(C)(C)(C)OC(NC)=O | C6H13NO2
